US04282246
5-(4-Chlorophenylthio)furan-3-carboxylic Acid
p-Chlorothiophenol (4.52 g., 31.4 mmoles) was reacted with 5-bromo-furan-3-carboxylic acid according to the procedure of Example 15, except that the total volume of dimethylformamide was 85 ml., and the reflux period was 8 hours. The reaction mixture was cooled, filtered, the filtrate diluted with 500 ml. of water and insolubles removed by filtration. The latter filtrate was made acidic with 6 N hydrochloric acid, product was extracted into ethyl acetate and recovered by evaporation to an oil, crystallized by trituration with water (860 mg.). Two crystallizations from methanol/water gave purified 5-(4-chlorophenylthio)furan-3-carboxylic acid (150 mg., m.p. 142°-145° C., m/e 254). Analysis: Calcd. for C11H7O3SCl; C, 51.87; H, 2.77. Found: C, 51.97; H, 2.99.

reactant | p-Chlorothiophenol | 31.4 mmoles, 4.52 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 5-bromo-furan-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(4-Chlorophenylthio)furan-3-carboxylic Acid | ClC1=CC=C(C=C1)SC1=CC(=CO1)C(=O)O | C11H7ClO3S
